US07989633B2
Ethyl 5-(3-methoxybenzoyl)-2,6-dimethyl-4-(2-methyl-4-oxo-4H-chromen-8-yl)-1,4-dihydro-pyridine-3-carboxylate
245 mg (0.67 mmol) of 1-(3-methoxyphenyl)-2-[(2-methyl-4-oxo-4H-chromen-8-yl)methylene]-butane-1,3-dione are heated with 87 mg (0.67 mmol) of ethyl 3-aminocrotonate in 5 ml of 2-propanol under reflux overnight. The solvent is removed in vacuo, and the residue is purified by preparative HPLC. 102 mg (32% of theory) of the title compound are obtained.

reactant | 1-(3-methoxyphenyl)-2-[(2-methyl-4-oxo-4H-chromen-8-yl)methylene]-butane-1,3-dione | 0.67 mmol, 245 mg | COC=1C=C(C=CC1)C(C(C(C)=O)=CC=1C=CC=C2C(C=C(OC12)C)=O)=O | C22H18O5
reactant | ethyl 3-aminocrotonate | 0.67 mmol, 87 mg | N\C(=C/C(=O)OCC)\C | C6H11NO2
solvent | 2-propanol | 5 ml | CC(C)O | C3H8O
product | Ethyl 5-(3-methoxybenzoyl)-2,6-dimethyl-4-(2-methyl-4-oxo-4H-chromen-8-yl)-1,4-dihydro-pyridine-3-carboxylate | COC=1C=C(C(=O)C=2C(C(=C(NC2C)C)C(=O)OCC)C=2C=CC=C3C(C=C(OC23)C)=O)C=CC1 | C28H27NO6
